US05204365
2-[3-(1-Phenyl-3-chloro-1-propenyl)phenyl]propionic acid (IIa with R2 =H and R1 =CH3)
A solution of 18.5 g of dry thionyl chloride in 30 mL methylene chloride was added, along 1 hour, to a solution of 41.7 g of 2-[3-(1-phenyl-3-hydroxy-1-propenyl)phenyl]propionic acid in 60 mL of the same solvent, kept at 5-10° C. After standing for 1 hour, volatile materials were removed under vacuum. The oily residue, mainly formed by the title compound, was used in subsequent reactions without further purification. IR Spectrum (film), cm-1 : 3400-2600, 1710, 1600, 1490, 1410, 1245, 1230, 1070, 790, 770, 700.

reactant | thionyl chloride | 18.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[3-(1-phenyl-3-hydroxy-1-propenyl)phenyl]propionic acid | 41.7 g | C1(=CC=CC=C1)C(=CCO)C=1C=C(C=CC1)C(C(=O)O)C | C18H18O3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(1-Phenyl-3-chloro-1-propenyl)phenyl]propionic acid | C1(=CC=CC=C1)C(=CCCl)C=1C=C(C=CC1)C(C(=O)O)C | C18H17ClO2
